US06727264B1
N-(3-{1-[6-(1H-INDOL-1-YL)HEXYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
1-(6-Chlorohexyl)-1H-indole (23.6 mg, 0.100 mmol), 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide (24.6 mg, 0.100 mmol), K2CO3 (27.6 mg, 0.200 mmol), NaI (22.5 mg, 0.150 mmol) and DMF (1.00 mL) were combined and stirred overnight at 100° C. The reaction mixture was cooled to room temperature and the crude material was purified by preparative TLC using 5% of NH3 (2.0 M in methanol) in CH2Cl2 to give the desired product as a yellow solid (40 mg, 90%). 1H NMR (400 MHz, CDCl3) δ 8.08-6.52 (m, 11H) 4.17 (t, 2H, J=7.2 Hz), 3.26 (d, 2H, J=11.6 Hz), 2.74-2.52 (m, 4H), 2.44-2.28 (m, 2H), 2.20-2.02 (m, 2H), 1.98-1.82 (m, 4H), 1.78-1.62 (m, 2H), 1.43-1.28 (m, 4H), 1.28 (d, 6H, J=6.8 Hz); ESMS m/e: 446.5 (M+H)+.

reactant | 1-(6-Chlorohexyl)-1H-indole | 0.100 mmol, 23.6 mg | ClCCCCCCN1C=CC2=CC=CC=C12 | C14H18ClN
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | 0.100 mmol, 24.6 mg | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
reactant | K2CO3 | 0.200 mmol, 27.6 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 0.150 mmol, 22.5 mg | [Na+].[I-]
solvent | DMF | 1.00 mL | CN(C)C=O | C3H7NO
product | N-(3-{1-[6-(1H-INDOL-1-YL)HEXYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | 40 mg, 90% | N1(C=CC2=CC=CC=C12)CCCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C29H39N3O
